US05151431
A mixture of 3-(3-chloro-2-nitrophenylamino)propionic acid (21.5 g), which was synthesized according to the method of Giovanni Pappalardo et al. (Ann. Chim. (Rome), 55, 182 (1965)), phosphorus pentoxide (37.0 g) and toluene (160 ml) was refluxed for 90 minutes. After cooling, toluene was removed in vacuo. The residue was washed with ether to give 7-chloro-2,3-dihydro-8-nitro-4(1H)-quinolinone (yield 10.0 g).

reactant | 3-(3-chloro-2-nitrophenylamino)propionic acid | 21.5 g | ClC=1C(=C(C=CC1)NCCC(=O)O)[N+](=O)[O-] | C9H9ClN2O4
reactant | phosphorus pentoxide | 37.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-2,3-dihydro-8-nitro-4(1H)-quinolinone | yield 10.0 g | ClC1=CC=C2C(CCNC2=C1[N+](=O)[O-])=O | C9H7ClN2O3
